US07452886B2
6-(4-Bromomethyl-benzyl)-7-cyclohexyl-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile
To a solution of 7-cyclohexyl-6-(4-hydroxymethyl-benzyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile (0.43 mmol) in CH2Cl2 (5 ml), triphenylphosphine (0.47 mmol) and carbontetrabromide (0.47 mmol) are added at 0° C. under nitrogen. The reaction mixture is stirred at 0° C. for 1 h and at room temperature for 1 h. The crude product is applied to a column of silica gel, which is eluted with following solvents: n-hexane:AcOEt=10:1 (v/v), n-hexane:AcOEt=8:1 (v/v) and n-hexane:AcOEt=5:1 (v/v). The solvent of the latter effluent is removed by evaporation and dried in vacuo to afford the title compound. yield 73.9%, Rf=0.72 (n-hexane:AcOEt=1:1).

reactant | 7-cyclohexyl-6-(4-hydroxymethyl-benzyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | 0.43 mmol | C1(CCCCC1)N1C(=CC2=C1N=C(N=C2)C#N)CC2=CC=C(C=C2)CO | C21H22N4O
reactant | triphenylphosphine | 0.47 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbontetrabromide | 0.47 mmol | C(Br)(Br)(Br)Br | CBr4
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | 6-(4-Bromomethyl-benzyl)-7-cyclohexyl-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | yield 73.9% | BrCC1=CC=C(CC2=CC3=C(N=C(N=C3)C#N)N2C2CCCCC2)C=C1 | C21H21BrN4
